US08193246B2
Synthesis of Hexadecanoic acid 1-{[(11-carboxy-undecyl)-dimethyl-ammonium]methyl-2-hexadecanoyloxy-ethyl ester (w12-DPTAP)
w-12-DPTAP was synthesized as described in example 19 step c using 9.21 g (2,3-Bis-hexadecanoyloxy-propyl)-(12-hydroxydodecyl)-dimethyl-ammonium bromide, 0.035 g TEMPO, 0.268 g KBr, 0.22 g Aliquat™ and 1 g NaHCO3 dissolved in 67 ml sodium hypochlorite. The crude product was purified by two column chromatographies on silica gel (eluent 1: chloroform/methanol 4:1; eluent 2: chloroform/methanol 8:1). The product was characterized by 1H-NMR and LC-MS.

reactant | (2,3-Bis-hexadecanoyloxy-propyl)-(12-hydroxydodecyl)-dimethyl-ammonium bromide | 9.21 g | [Br-].C(CCCCCCCCCCCCCCC)(=O)OC(C[N+](C)(C)CCCCCCCCCCCCO)COC(CCCCCCCCCCCCCCC)=O
reactant | TEMPO | 0.035 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | KBr | 0.268 g | [K+].[Br-]
reactant | NaHCO3 | 1 g | C(=O)(O)[O-].[Na+]
solvent | sodium hypochlorite | 67 ml | Cl[O-].[Na+]
product | Hexadecanoic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
